US07192968B2
(1R*,2S*)-N1,N2-Bis(tert-butoxycarbonyl)-4-hydroxy-1,2-cyclohexanediamine (mixture of stereoisomers)
cis-N1,N2-Bis (tert-butoxycarbonyl)-4-cyclohexene-1,2-diamine (6.1 g) was dissolved in absolute tetrahydrofuran (40 ml), and borane-dimethyl sulfide complex (2.22 ml) was added by a syringe under ice cooling. The mixture was stirred for 16 hours while gradually heating the mixture to room temperature as it is. Ice was added to the reaction mixture, and a 1N aqueous solution of sodium hydroxide and 30% aqueous hydrogen peroxide (50 ml) were added to stir the mixture at room temperature for 2 hours as it is. The reaction mixture was extracted with ethyl acetate, and the resultant organic layer was washed with saturated saline and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:2→2:1) to obtain the title compound (6.1 g) as a colorless oil.

reactant | cis-N1,N2-Bis (tert-butoxycarbonyl)-4-cyclohexene-1,2-diamine | 6.1 g | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CC=CC1)NC(=O)OC(C)(C)C | C16H28N2O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | 50 ml | OO | H2O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (1R*,2S*)-N1,N2-Bis(tert-butoxycarbonyl)-4-hydroxy-1,2-cyclohexanediamine | 6.1 g | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CC(CC1)O)NC(=O)OC(C)(C)C | C16H30N2O5
